US08183289B2
N-(4-Chlorophenethyl)-4-(2-cyclopropyl-4-formylphenoxy)benzamide (160 mg, 0.381 mmol) was diluted with THF (3 mL) followed by the addition of N,N,N-trimethyl(phenyl)methanaminium hydroxide (0.0866 ml, 0.191 mmol) and methylsulfinyl(methylthio)methane (94.7 mg, 0.762 mmol). The reaction was heated to 70° C. and stirred for 2 hours. The reaction was cooled and loaded directly onto a silica gel column, eluting with ethyl acetate to yield (Z)-N-(4-chlorophenethyl)-4-(2-cyclopropyl-4-(2-(methylsulfinyl)-2-(methylthio)vinyl)phenoxy)benzamide (100 mg, 49.9% yield).

reactant | N-(4-Chlorophenethyl)-4-(2-cyclopropyl-4-formylphenoxy)benzamide | 0.381 mmol, 160 mg | ClC1=CC=C(CCNC(C2=CC=C(C=C2)OC2=C(C=C(C=C2)C=O)C2CC2)=O)C=C1 | C25H22ClNO3
reactant | N,N,N-trimethyl(phenyl)methanaminium hydroxide | 0.191 mmol, 0.0866 ml | [OH-].C[N+](CC1=CC=CC=C1)(C)C
reactant | methylsulfinyl(methylthio)methane | 0.762 mmol, 94.7 mg | CS(=O)CSC | C3H8OS2
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | (Z)-N-(4-chlorophenethyl)-4-(2-cyclopropyl-4-(2-(methylsulfinyl)-2-(methylthio)vinyl)phenoxy)benzamide | 100 mg, 49.9% yield | ClC1=CC=C(CCNC(C2=CC=C(C=C2)OC2=C(C=C(C=C2)\C=C(\SC)/S(=O)C)C2CC2)=O)C=C1 | C28H28ClNO3S2
